US06949536B2
3-Chloro-4-(methylsulfonyl)phenylhydrazine hydrochloride (Step 1)
To a stirred suspension of 3-chloro-4-(methylsulfonyl)aniline (3.0 g, 15.0 mmol, Ish. K. Khanna et al., J. Med. Chem. 40, 1619 (1997)) in 20% aqueous HCl (20 mL) was added dropwise a solution of sodium nitrite (1.1 g, 16.0 mmol) in water (20 mL) below −5° C. After stirring for 1 hour at that temperature, tin(II) chloride dihydrate in 20% aqueous HCl (20 mL) was added dropwise below −5° C. The resulting suspension was stirred for 1 h at room temperature. The mixture was basified with aqueous NaOH (pH=14) and extracted with CHCl3 (200 mL×2), dried over MgSO4, and concentrated in vacuo. The solid (5 g) was dissolved in 10% methanolic HCl (30 mL), and volatiles were removed by evaporation. The residue was washed with ethanol to give the title compound (1.3 g, 34%).

reactant | 3-chloro-4-(methylsulfonyl)aniline | 15.0 mmol, 3.0 g | ClC=1C=C(N)C=CC1S(=O)(=O)C | C7H8ClNO2S
reactant | sodium nitrite | 16.0 mmol, 1.1 g | N(=O)[O-].[Na+]
reactant | tin(II) chloride dihydrate | O.O.[Sn](Cl)Cl
reactant | NaOH | pH=14 | [OH-].[Na+]
solvent | HCl | 20 mL | Cl | ClH
solvent | water | 20 mL | O | H2O
solvent | HCl | 20 mL | Cl | ClH
product | 3-Chloro-4-(methylsulfonyl)phenylhydrazine hydrochloride | 1.3 g, 34% | Cl.ClC=1C=C(C=CC1S(=O)(=O)C)NN | InChI=1S/C7H9ClN2O2S.ClH/c1-13(11,12)7-3-2-5(10-9)4-6(7)8;/h2-4,10H,9H2,1H3;1H
